US07368472B2
6a N-{2-Amino-4-[(5-chlorothiophen-2-ylmethyl)amino]phenyl }-2-(4-fluorophenyl)-acetamide
To a stirred red solution of N-{4-[(5-chlorothiophen-2-ylmethyl)amino]-2-nitrophenyl}-2-(4-fluorophenyl)acetamide (320 mg, 0.762 mmol) in tetrahydrofuran (25 ml) and acetic acid (8 mL) zinc powder (particle size <10 micron, 10 g) was periodically added by portions during 30 minutes. The solution turned colorless after 5 minutes. The obtained colorless suspension was filtered via plug of SiO2 (10 g) with ethyl acetate as an eluent and the obtained solution was evaporated in vacuo. The obtained solid was dissolved in a mixture of ethyl acetate/acetone/trifluoroacetic (3 mL/3 mL/0.2 mL), treated with saturated aq. NaHCO3 (50 mL) and heptane (30 mL) and the product was separated by filtration to furnish 280 mg of a pale grey solid. Yield 94.2%. LC/MS (m/z) 390.4 ([M+H]+); RT=2.26 (UV, ELSD) 99%, 100%. 1H NMR (DMSO-d6): 3.56 (s, 2H); 4.28 (d, 2H); 4.57 (s, 2H, NH2); 5.87 (dd, 1H); 5.98 (m, 2H, NH and arom. H); 6.74 (d, 1H); 6.86 (d, 1H); 6.93 (d, 1H); 7.13 (t, 2H); 7.35 (dd, 2H); 9.10 (s, 1H).

reactant | N-{4-[(5-chlorothiophen-2-ylmethyl)amino]-2-nitrophenyl}-2-(4-fluorophenyl)acetamide | 0.762 mmol, 320 mg | ClC1=CC=C(S1)CNC1=CC(=C(C=C1)NC(CC1=CC=C(C=C1)F)=O)[N+](=O)[O-] | C19H15ClFN3O3S
reactant | acetic acid | 8 mL, 10 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-{2-Amino-4-[(5-chlorothiophen-2-ylmethyl)amino]phenyl }-2-(4-fluorophenyl)-acetamide | 280 mg, Yield 94.2% | NC1=C(C=CC(=C1)NCC=1SC(=CC1)Cl)NC(CC1=CC=C(C=C1)F)=O | C19H17ClFN3OS
